US06855716B2
Synthesis of 2-amino-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide
158 mg (0.563 mmol) of 4-(3-chlorophenyl)-2-methoxy-6-methyl-1,4-dihydropyrimidine-5-carboxylic acid and 178 mg (0.844 mmol) of 3,3-diphenylpropylamine were dissolved in 20 ml of dichloromethane. 162 mg (0.844 mmol) of WSC hydrochloride was added to the obtained solution under cooling with ice, and they were stirred at room temperature overnight. After the concentration under reduced pressure, the reaction mixture was diluted with ethyl acetate and then washed with saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by the silica gel chromatography (hexane/ethyl acetate=2/1) to obtain the title compound.

reactant | 4-(3-chlorophenyl)-2-methoxy-6-methyl-1,4-dihydropyrimidine-5-carboxylic acid | 0.563 mmol, 158 mg | ClC=1C=C(C=CC1)C1N=C(NC(=C1C(=O)O)C)OC | C13H13ClN2O3
reactant | 3,3-diphenylpropylamine | 0.844 mmol, 178 mg | C1(=CC=CC=C1)C(CCN)C1=CC=CC=C1 | C15H17N
reactant | WSC hydrochloride | 0.844 mmol, 162 mg | CCN=C=NCCCN(C)C.Cl
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 2-amino-4-(3-chlorophenyl)-6-methyl-1,4-dihydropyrimidine-5-carboxylic acid (3,3-diphenylpropyl)amide | C1(=CC=CC=C1)C(CCNC(=O)C=1C(N=C(NC1C)N)C1=CC(=CC=C1)Cl)C1=CC=CC=C1 | C27H27ClN4O
